US08748624B2
STEP A: ethyl 3-(5-(2-formyl-5-(trifluoromethyl)phenyl)picolinamido)propanoate
2-bromo-4-(trifluoromethyl)benzaldehyde (1.3 g, 5.1 mmol), ethyl 3-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)picolinamido)propanoate, prepared as in example 19, (2.7 g, 7.7 mmol), Pd(dppf)Cl2 (421 mg, 0.5 mmol), and K2CO3 (1.4 g, 10.3 mmol) were dissolved in 1,4-dioxane (40 mL) and water (10 mL) and the resulting mixture was heated to 80° C. After 16 h the resulting mixture was cooled to room temperature, diluted with EtOAc, washed with water and brine, dried (Na2SO4), and dry packed onto silica gel. Column chromatography yielded the title compound.

reactant | 2-bromo-4-(trifluoromethyl)benzaldehyde | 5.1 mmol, 1.3 g | BrC1=C(C=O)C=CC(=C1)C(F)(F)F | C8H4BrF3O
reactant | ethyl 3-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)picolinamido)propanoate | CC1(OB(OC1(C)C)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC)C | C17H25BN2O5
reactant | K2CO3 | 10.3 mmol, 1.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 10 mL | O | H2O
solvent | 1,4-dioxane | 40 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(dppf)Cl2 | 7.7 mmol, 2.7 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | ethyl 3-(5-(2-formyl-5-(trifluoromethyl)phenyl)picolinamido)propanoate | C(=O)C1=C(C=C(C=C1)C(F)(F)F)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC | C19H17F3N2O4
